US06706699B2
Step 2: [(4-Amino-phenyl)-ethoxy-phosphinoylmethyl]-phosphonic Acid Diethyl Ester:
A mixture of [(4-nitro-phenyl)-ethoxy-phosphinoylmethyl]-phosphonic acid diethyl ester (940 mg, 2.57 mmol) and SnCl2·2H2O (2.9 g, 12.9 mmol) in EtOH (˜10 mL) was stirred at 70° C. for 44 min and then concentrated at ambient temperature. The residue was taken up in CH2Cl2 and washed with half saturated aq NaHCO3 (40 mL), H2O (40 mL) and brine (40 mL). The aqueous washes were reextracted once with CH2Cl2, and the combined extracts were dried over K2CO3 and concentrated. The crude material was purified by flash chromatography on silica gel. Elution with 20:1 CHCl3-MeOH followed by 15:1 CHCl3-MeOH afforded 657 mg of product.

reactant | [(4-nitro-phenyl)-ethoxy-phosphinoylmethyl]-phosphonic acid diethyl ester | 2.57 mmol, 940 mg | C(C)OP(OCC)(=O)C([PH2]=O)(OCC)C1=CC=C(C=C1)[N+](=O)[O-] | C13H21NO7P2
reactant | SnCl2·2H2O | 12.9 mmol, 2.9 g | O.O.Cl[Sn]Cl
solvent | EtOH | ˜10 mL | CCO | C2H6O
product | [(4-Amino-phenyl)-ethoxy-phosphinoylmethyl]-phosphonic Acid Diethyl Ester | 657 mg | C(C)OP(OCC)(=O)C([PH2]=O)(OCC)C1=CC=C(C=C1)N | C13H23NO5P2
